US04252818
Step G: 7[3-(4-Acetyl-3-hydroxy-6-iodo-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic Acid
Dissolve 10.9 gm of 7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid sodium salt in 250 ml of 28% ammonium hydroxide solution. Cool the mixture in an ice-water bath. Add 285 ml of a 0.2 m aqueous potassium triiodide solution dropwise. Stir in the cold for 15 minutes. Add sodium bisulfite until iodine color is discharged. Acidify the mixture slowly with 20% aqueous hydrochloric acid. Separate the solids by filtration, wash with water and dry. Dissolve the solids in methanol and esterify with diazomethane in ether. Chromatograph on silica gel, eluting with 15% ethyl acetate in toluene (mp 137°-141° C.). Crystallize from toluene (mp 150°-153° C.). Reflux 2.1 gm of ester product in a mixture of 2.1 gm of sodium bicarbonate, 200 ml of denatured alcohol and 20 ml of water for 1 hour. Strip the mixture to dryness and triturate the residue in ethyl acetate. Separate the solids, dissolve in water and acidify with 10% aqueous hydrochloric acid. Separate the solids by filtration. (mp 179°-182° C.)

reactant | 7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid sodium salt | 10.9 gm | [Na+].C(C)(=O)C1=C(C(=C(OCC(COC2=C(C3=C(C(C=C(O3)C(=O)[O-])=O)C=C2)CCC)O)C=C1)CCC)O
reactant | potassium triiodide | [I-].[I-].[I-].[K+].[K+].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | iodine | II | I2
reactant | hydrochloric acid | Cl | ClH
solvent | ammonium hydroxide | 250 ml | [OH-].[NH4+]
product | 7[3-(4-Acetyl-3-hydroxy-6-iodo-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic Acid | C(C)(=O)C1=C(C(=C(OCC(COC2=C(C3=C(C(C=C(O3)C(=O)O)=O)C=C2)CCC)O)C(=C1)I)CCC)O | C27H29IO9
